US07250511B2
tert-Butyl 4-[N-(5-(2-benzyloxyethanoylamino)-6-cyanoindan-1-yl)-amino]benzoate
To a stirred solution of tert-butyl 4-[N-(5-(2-benzyloxyethanoylamino)-6-bromoindan-1-yl)amino]benzoate (0.210 g, 0.38 mmol) in anhydrous NMP (2.2 ml) was added CuCN (0.068 g, 0.76 mmol). The reaction flask was placed in an oil bath preheated to 150° C. and it was stirred at this temperature for 3 h under argon. The mixture was then allowed to cool to room temperature and poured into a mixture of liquid ammonia (d=0.88, 2 ml) and ice-water (5 ml). This mixture was stirred at room temperature for 5 min, the brown precipitate was then collected by filtration and washed with water. This precipitate was then suspended in CH2Cl2 (70 ml), dried (Na2SO4), and concentrated in vacuo. Purification of the residue by column chromatography, on elution with 35% AcOEt in hexane, afforded a brown solid (0.084 g, 45%); mp 194-195° C.; 1H-NMR (250 MHz, CDCl3, TMS) 1.55 (s, 9H, C(CH3)3), 1.95, 2.64 (2×m, 1H each, 2-CH2 indanyl), 2.99 (m, 2H, 3-CH2 indanyl), 4.13, 4.72 (2×s, 2H each, PhCH2 and OCH2CO), 4.22 (d, J=8.1 Hz, 1H, N10—H), 5.05 (m, 1H, 1-CH indanyl), 6.65 (d, J=8.7 Hz, 2H, 3,5-ArH), 7.39 (m, 5H, PhCH2), 7.54, 8.37 (2×s, 1H each, 4-H and 7-H), 7.86 (d, J=8.7 Hz, 2H, 2,6-ArH), 9.06 (s, 1H, CONH); MS (ESI, m/z) 520 {(M+Na)+, 100%,}; Found: C, 72.26; H, 6.26; N, 8.41; C30H31N3O4 requires C, 72.41; H, 6.28; N, 8.44%.

reactant | tert-butyl 4-[N-(5-(2-benzyloxyethanoylamino)-6-bromoindan-1-yl)amino]benzoate | 0.38 mmol, 0.210 g | C(C1=CC=CC=C1)OCC(=O)NC=1C=C2CCC(C2=CC1Br)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C29H31BrN2O4
reactant | CuCN | 0.76 mmol, 0.068 g | C(#N)[Cu]
reactant | ammonia | 2 ml | N | H3N
solvent | NMP | 2.2 ml | CN1CCCC1=O | C5H9NO
product | tert-Butyl 4-[N-(5-(2-benzyloxyethanoylamino)-6-cyanoindan-1-yl)-amino]benzoate | 0.084 g, 45% | C(C1=CC=CC=C1)OCC(=O)NC=1C=C2CCC(C2=CC1C#N)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C30H31N3O4
